US06028096
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(1-oximinoethyl)pyrazole
To a stirred solution of 4-acetyl-5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (0.25g) in pyridine (5 ml) was added hydroxylamine hydrochloride (0.05 g). After stirring at room temperature for 6 hours the mixture was heated at 50° C. for 3 hours, after which it was evaporated. The residue was taken up in ether and washed with aqueous citric acid solution (1M), water, then dried and evaporated. The residue was crystallised from propan-2-ol/hexane and further purified by column chromatography on silica gel eluted with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a tan solid, m.p. 105-110° C.

reactant | 4-acetyl-5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.25g | C(C)(=O)C=1C(=NN(C1N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C13H7Cl2F3N4O
reactant | hydroxylamine hydrochloride | 0.05 g | Cl.NO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(1-oximinoethyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C(C)=NO | C13H8Cl2F3N5O
